US05216167
Ethyl 2-ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-n-hexyl}-aminocarbonylmethyl]-benzoate
Prepared from 1-(2-piperidino-phenyl)-1-n-hexylamine and 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid analogous to Example 1.

reactant | 1-(2-piperidino-phenyl)-1-n-hexylamine | N1(CCCCC1)C1=C(C=CC=C1)C(CCCCC)N | C17H28N2
reactant | 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid | C(C)OC=1C=C(C=CC1C(=O)OCC)CC(=O)O | C13H16O5
product | Ethyl 2-ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-n-hexyl}-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCCCC)C1=C(C=CC=C1)N1CCCCC1 | C30H42N2O4
